US04808597
Methyl 4-[(E)-2-(N,4,4-Trimethyl-1,2,3,4-tetrahydro-6-quinolinyl)-2-methylvinyl]benzoate
A mixture of 3.64 g of methyl 4-[(E)-2-(4,4-dimethyl-1,2,3,4-tetrahydro-6-quinolinyl)-2-methylvinyl]benzoate, 5 ml of 90% formic acid and 5 ml of 40% aqueous formaldehyde is heated at 95° C. for 12 hours. The reaction medium is then cooled and 1.5 ml of concentrated hydrochloric acid is added. The formic acid and excess formaldehyde are removed by evaporation in vacuo. The resulting mixture is then made strongly basic and extracted with dichloromethane. The dichloromethane extracts are combined, dried (MgSO4) and evaporated in vacuo to give the title compound.

reactant | methyl 4-[(E)-2-(4,4-dimethyl-1,2,3,4-tetrahydro-6-quinolinyl)-2-methylvinyl]benzoate | 3.64 g | CC1(CCNC2=CC=C(C=C12)/C(=C/C1=CC=C(C(=O)OC)C=C1)/C)C | C22H25NO2
reactant | formaldehyde | 5 ml | C=O | CH2O
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | Methyl 4-[(E)-2-(N,4,4-Trimethyl-1,2,3,4-tetrahydro-6-quinolinyl)-2-methylvinyl]benzoate | CN1CCC(C2=CC(=CC=C12)/C(=C/C1=CC=C(C(=O)OC)C=C1)/C)(C)C | C23H27NO2
